US05518841
One point five (1.5) g (0.01 mole) of DMcT monomer powder were dissolved in 5 g of NMP to obtain a yellowish transparent viscous DMcT-NMP solution. To this solution, 2.5 g (0.015 mole) of polyaniline powder in a de-doped and reduced state ("ANILEAD" available from Nitto Denko Corp., Japan) were added and the combined solution was then heated at 80° C. in a sealed container, whose inner atmosphere was replaced by an inert gas, to obtain a black purple liquid.

reactant | DMcT | 0.01 mole | CN(C)[C@H]1[C@@H]2C[C@@H]3[C@@H](C4=C(C=CC(=C4C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O)O)Cl)O | C21H21ClN2O8
solvent | NMP | 5 g | CN1CCCC1=O | C5H9NO
product | DMcT NMP | CN(C)[C@H]1[C@@H]2C[C@@H]3[C@@H](C4=C(C=CC(=C4C(=C3C(=O)[C@@]2(C(=C(C1=O)C(=O)N)O)O)O)O)Cl)O.CN1CCCC1=O | InChI=1S/C21H21ClN2O8.C5H9NO/c1-24(2)14-7-5-6-10(16(27)12-9(25)4-3-8(22)11(12)15(6)26)18(29)21(7,32)19(30)13(17(14)28)20(23)31;1-6-4-2-3-5(6)7/h3-4,6-7,14-15,25-27,30,32H,5H2,1-2H3,(H2,23,31);2-4H2,1H3/t6-,7-,14-,15-,21-;/m0./s1
